US07148229B2
Crude {4-[(6-amino-1,3-dimethyl-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-ylcarbamoyl)-methyl]-phenyl}-carbamic acid tert-butyl ester (0.65 mmol) was added to a 4M solution of hydrogen chloride in p-dioxane (10 mL) and the mixture stirred at ambient temperature for 2 hrs. The precipitate was isolated by filtration, washed with p-dioxane and ether then dried in vacuo to give crude N-(6-amino-1,3-dimethyl-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-yl)-2-(4-amino-phenyl)-acetamide hydrochloride salt as a light beige solid which was of sufficient purity for subsequent use without additional purification (quantitative).

reactant | {4-[(6-amino-1,3-dimethyl-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-ylcarbamoyl)-methyl]-phenyl}-carbamic acid tert-butyl ester | 0.65 mmol | C(C)(C)(C)OC(NC1=CC=C(C=C1)CC(NC=1C(N(C(N(C1N)C)=O)C)=O)=O)=O | C19H25N5O5
reactant | hydrogen chloride | Cl | ClH
solvent | p-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | N-(6-amino-1,3-dimethyl-2,4-dioxo-1,2,3,4-tetrahydro-pyrimidin-5-yl)-2-(4-amino-phenyl)-acetamide hydrochloride salt | Cl.NC1=C(C(N(C(N1C)=O)C)=O)NC(CC1=CC=C(C=C1)N)=O | InChI=1S/C14H17N5O3.ClH/c1-18-12(16)11(13(21)19(2)14(18)22)17-10(20)7-8-3-5-9(15)6-4-8;/h3-6H,7,15-16H2,1-2H3,(H,17,20);1H
